US06956050B2
STEP 1. 3-chloro-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate and 3-chlorobenzenesulfonamide. MS (ESI) m/z 509 [M+H]+, 507 [M−H]−, 1H-NMR (CDCl3)δ1.22 (3H, t, J=7.5 Hz), 2.68 (2H, q, J=7.5 Hz), 2.86 (2H, t, J=6.6 Hz), 3.47-3.56 (2H, m), 6.44 (1H, br), 7.23-7.28 (5H, m), 7.36 (2H, t, J=7.3 Hz), 7.45 (2H, t, J=8.1 Hz), 7.58 (2H, d, J=8.1 Hz), 7.73-7.78 (2H, m), 7.87 (1H, m).

reactant | 2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | C(C)C=1N(C=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)CCNC([O-])=O
reactant | 3-chlorobenzenesulfonamide | ClC=1C=C(C=CC1)S(=O)(=O)N | C6H6ClNO2S
product | 3-chloro-N-[({2-[4-(2-ethyl-4-phenyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]benzenesulfonamide | ClC=1C=C(C=CC1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=CC=C1)CC | C26H25ClN4O3S
